US05053413
2[-1-(phenylmethyl)-4-piperidinyl]-2,3-dihydro-lH-isoindol-1-one
Following the procedure outlined in Example 6 and substituting commercially available 1 phenylmethyl 4-aminopiperidine (2.29 g), 0.60 g of product was isolated as a white crystalline solid from ethyl acetate/skellysolve B: mp 116-118° C. Anal. calcd for C20H22N2O 0.25 H20: C, 77.26; H, 7.29; N, 9.01. Found: C, 77.65; H, 7.38; N, 9.08.

reactant | phenylmethyl 4-aminopiperidine | 2.29 g | C1(=CC=CC=C1)CN1CCC(CC1)N | C12H18N2
reactant | ethyl acetate skellysolve B | C(C)(=O)OCC.CCCCCC
product | 2[-1-(phenylmethyl)-4-piperidinyl]-2,3-dihydro-lH-isoindol-1-one | 0.60 g | C1(=CC=CC=C1)CN1CCC(CC1)N1C(C2=CC=CC=C2C1)=O | C20H22N2O
